US04476311
(B) 2-(3-Methoxyphenyl)-5-oxo-1-phenylpyrrolidin-3-carboxylic acid
A solution of 42.3 gm. of 3-methoxybenzylidenaniline, 20 gm. of succinic anhydride and 200 ml. of xylene was refluxed for 16 hours. The crude product was obtained as a solid via the same workup used for example 1B. Recrystallization from ethyl acetate followed by a second recrystallization from acetonitrile provided 21.0 gm. of colorless crystals, m.p. 145°-149°.

reactant | 3-methoxybenzylidenaniline | COC=1C=C(C=NC2=CC=CC=C2)C=CC1 | C14H13NO
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(3-Methoxyphenyl)-5-oxo-1-phenylpyrrolidin-3-carboxylic acid | COC=1C=C(C=CC1)C1N(C(CC1C(=O)O)=O)C1=CC=CC=C1 | C18H17NO4
